US05872135
Step A: N-(t-Butoxycarbonyl)piperidine-2(S)-carboxylic acid
2(S)-Piperidinecarboxylic acid (3.0 g, 0.023 mol) was dissolved in dioxane (30 mL) water (30 mL) with stirring and cooling in an ice-water bath, and the solution brought to pH 8 with diisopropylethylamine. The resulting solution was treated alternately with di-tert-butyl dicarbonate (11 mL, 0.048 mol) and diisopropylethylamine (total of 15 mL, 0.086 mol ) then stirred at ambient temperature for 16 h. The reaction mixture was treated with 0.1N NaOH solution (200 mL) and extracted with EtOAc (3×100 mL). The organics were combined, washed with brine and dried (MgSO4). Filtration and concentration to dryness gave the title compound which was used without further purification.

reactant | 2(S)-Piperidinecarboxylic acid | 0.023 mol, 3.0 g | N1[C@@H](CCCC1)C(=O)O | C6H11NO2
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | di-tert-butyl dicarbonate | 0.048 mol, 11 mL | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | diisopropylethylamine | 0.086 mol, 15 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | NaOH | 0.1N, 200 mL | [OH-].[Na+]
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
product | N-(t-Butoxycarbonyl)piperidine-2(S)-carboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CCCC1)C(=O)O | C11H19NO4
